US05439917
2,3-Dimethyl-5-methylsulfinyl-7-phenacylpyrrolo[2,3 -b]pyridine.
A solution of 2,3-dimethyl-5-methylthio-7-phenacylpyrrolo[2,3-b]pyridine (35 mg, 0.1 mmol) in 20 ml CH2Cl2 was cooled to -20° C. an treated with 71% m-CPBA (27 mg, 0.1 mmol) for 30 min. The volume was adjusted 50 ml with CH2Cl2 and the organic layer washed twice with 50 ml 5% Na2CO3 and once with 2M HCl (reextraction trice with 25 ml CH2Cl2). The organic layer was dried over MgSO4 and evaporated leaving 15 mg (41%) pure title compound.

reactant | 2,3-dimethyl-5-methylthio-7-phenacylpyrrolo[2,3-b]pyridine | 0.1 mmol, 35 mg | CC1=C(C=2C(N(C=C(C2)SC)CC(=O)C2=CC=CC=C2)=N1)C | C18H18N2OS
reactant | m-CPBA | 0.1 mmol, 27 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Dimethyl-5-methylsulfinyl-7-phenacylpyrrolo[2,3 -b]pyridine | 15 mg, 41% | CC1=C(C=2C(N(C=C(C2)S(=O)C)CC(=O)C2=CC=CC=C2)=N1)C | C18H18N2O2S
